US07807681B2
3.5 TIPPS-3-amino-(L)-phenylalanine-4-ethoxycarbonylpiperazide
TIPPS-3-nitro-(L)-phenylalanine-4-ethoxycarbonylpiperazide (157 g; 176 mmol) was dissolved in 800 ml of ethanol, admixed with 19.7 g of 10% palladium on activated carbon catalyst and hydrogenated for 3 days by slowly passing through hydrogen. After filtering off the catalyst, the solvent was evaporated under vacuum and the crude product was chromatographically purified over silica gel.

reactant | TIPPS 3-nitro-(L)-phenylalanine-4-ethoxycarbonylpiperazide | 176 mmol, 157 g | C1=CC=C(C(=C1)C(=C2C=C(C(=O)C(=C2)I)I)C3=CC(=C(C(=C3)I)[O-])I)C(=O)[O-].[Na+].[Na+].C(C)OC(=O)N1CCN(CC1)C([C@@H](N)CC1=CC(=CC=C1)[N+](=O)[O-])=O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 19.7 g | [Pd] | Pd
product | TIPPS 3-amino-(L)-phenylalanine-4-ethoxycarbonylpiperazide | C1=CC=C(C(=C1)C(=C2C=C(C(=O)C(=C2)I)I)C3=CC(=C(C(=C3)I)[O-])I)C(=O)[O-].[Na+].[Na+].C(C)OC(=O)N1CCN(CC1)C([C@@H](N)CC1=CC(=CC=C1)N)=O | InChI=1S/C20H10I4O4.C16H24N4O3.2Na/c21-13-5-9(6-14(22)18(13)25)17(10-7-15(23)19(26)16(24)8-10)11-3-1-2-4-12(11)20(27)28;1-2-23-16(22)20-8-6-19(7-9-20)15(21)14(18)11-12-4-3-5-13(17)10-12;;/h1-8,25H,(H,27,28);3-5,10,14H,2,6-9,11,17-18H2,1H3;;/q;;2*+1/p-2/t;14-;;/m.0../s1
